### PR TITLE
finished Corollary 2.43 and stated Lemma 2.44

### PR DESCRIPTION
**Pull request by Alizter**
Corollary 2.43 follows easily. I've began setting up for the proof of 2.44.

### CODE REVIEW

File: theories/Hurewicz/Smash2.v [hunk 1]
```diff
@@ -394,3 +396,79 @@ Proof.
...
+
+Global Instance is0functor_psusp : Is0Functor psusp.
+Proof.
+  snrapply Build_Is0Functor.
+  intros X Y; exact psusp_functor.
+Defined.
+
+(** Lemma 2.44 *)
+Lemma natequiv_psusp_smash
+  : NatEquiv (psusp o uncurry Smash) ((uncurry Smash) o functor_prod psusp idmap).
```
Comment (Alizter) [inline theories/Hurewicz/Smash2.v]: I just noticed that `functor_prod psusp idmap` should be `functor_prod idmap psusp`.
```suggestion
  : NatEquiv (psusp o uncurry Smash) ((uncurry Smash) o functor_prod idmap psusp).
```

**Comment by jdchristensen** [comment]
Thanks!
